US07767685B2
A solution of aniline (0.016 mol) in 40 mL of dichloromethane is cooled on ice, and 1.0 equivalent of bromoacetyl bromide in 3 mL of dichloromethane is added dropwise, followed by 0.019 mol of triethylamine (TEA). The solution turns dark and a precipate forms, as the reaction mixture is warmed to RT over 3 h. The mixture is concentrated and taken up in ethyl acetate (EtOAc) and washed three times with water. The organic phase is dried over anhydrous sodium sulphate (Na2SO4), filtered and concentrated. The residue is purified by crystallization from EtOAc to afford 2-bromo-N-phenylacetamide: m.p. 131-135° C.; 1H-NMR (CDCl3) δ 4.01 (s, 2H), 7.18 (m, 1H), 7.36 (m, 2H), 7.54 (2H), 8.09 (s, 1H).

reactant | aniline | 0.016 mol | NC1=CC=CC=C1 | C6H7N
reactant | bromoacetyl bromide | 1.0 equivalent | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 0.019 mol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-bromo-N-phenylacetamide | BrCC(=O)NC1=CC=CC=C1 | C8H8BrNO
